US07192943B2
To a solution of 5-amino-1-methyl-1H-pyrazole-4-carboxylic acid (7.1 g), N-(2-aminoethyl)tritylamine (15.1 g) and triethylamine (10.1 g) in chloroform (200 ml) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (9.6 g), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with ethyl acetate and dried in vacuo to give 5-amino-1-methyl-N-[2-(tritylamino)ethyl]-1H-pyrazole-4-carboxamide (11.4 g) as a solid.

reactant | 5-amino-1-methyl-1H-pyrazole-4-carboxylic acid | 7.1 g | NC1=C(C=NN1C)C(=O)O | C5H7N3O2
reactant | N-(2-aminoethyl)tritylamine | 15.1 g | NCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H22N2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 9.6 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-amino-1-methyl-N-[2-(tritylamino)ethyl]-1H-pyrazole-4-carboxamide | 11.4 g | NC1=C(C=NN1C)C(=O)NCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27N5O
